US07517996B2
(Step A-7) Synthesis of methyl 3-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}benzylsulfanyl)propionate
To a solution of 1-(2-chlorophenyl)ethyl[3-(4-bromomethylphenyl)-isoxazolyl]carbamate (615 mg, 1.41 mmol) in dichloromethane (18 ml) were added triethylamine (855 mg, 8.47 mmol) and methyl 3-mercaptopropionate (445 mg, 4.23 mmol), and the mixture was stirred overnight at room temperature. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to give the title compound (58.5 mg, 0.123 mmol, 8.7%).

reactant | 1-(2-chlorophenyl)ethyl[3-(4-bromomethylphenyl)-isoxazolyl]carbamate | 1.41 mmol, 615 mg | ClC1=C(C=CC=C1)C(C)N(C([O-])=O)C=1C(=NOC1)C1=CC=C(C=C1)CBr
reactant | triethylamine | 8.47 mmol, 855 mg | C(C)N(CC)CC | C6H15N
reactant | methyl 3-mercaptopropionate | 4.23 mmol, 445 mg | SCCC(=O)OC | C4H8O2S
reactant | Water | O | H2O
reactant | dichloromethane | 18 ml | ClCCl | CH2Cl2
product | methyl 3-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}benzylsulfanyl)propionate | 0.123 mmol, 58.5 mg, 8.7% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1)C1=CC=C(CSCCC(=O)OC)C=C1 | C23H23ClN2O5S
